US06391064B1
A solution of 2.58 mmol of 6-chloroquinoline-5,8-dione with 20.7 mmol of 1-methylpyrrole in 50 ml of acetic acid is stirred at room temperature for 24 hours. The medium is subsequently concentrated under reduced pressure, the residue is extracted with chloroform and the combined organic phases are washed in succession with aqueous sodium carbonate solution and then water before being dried over magnesium sulphate, filtered and concentrated under vacuum. The crude product obtained is purified by chromatography on a silica gel column to give 6-chloro-7-(1-methyl-1H-pyrrol-2-yl)quinoline-5,8-dione with a yield of 40%.

reactant | 6-chloroquinoline-5,8-dione | 2.58 mmol | ClC=1C(C=2C=CC=NC2C(C1)=O)=O | C9H4ClNO2
reactant | 1-methylpyrrole | 20.7 mmol | CN1C=CC=C1 | C5H7N
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 6-chloro-7-(1-methyl-1H-pyrrol-2-yl)quinoline-5,8-dione | yield of 40% | ClC=1C(C=2C=CC=NC2C(C1C=1N(C=CC1)C)=O)=O | C14H9ClN2O2
